US04251539
3-Isopropyl-5-[2-(2-hydroxy-3-cyclopropylaminopropoxy)-styryl]-isoxazole
7 g (0.025 mole) of 3-isopropyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole and 3 g (0.05 mole) of cyclopropylamine are reacted by the method described in Example 5. 3.0 g (30% of theory) of colorless crystals are obtained as the fumurate. Melting point 148°-152° C.

reactant | 3-isopropyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | 0.025 mole, 7 g | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C17H19NO3
reactant | cyclopropylamine | 0.05 mole, 3 g | C1(CC1)N | C3H7N
product | 3-Isopropyl-5-[2-(2-hydroxy-3-cyclopropylaminopropoxy)-styryl]-isoxazole | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC(CNC1CC1)O | C20H26N2O3
